US08685983B2
4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine (628.9 mg, 2.001 mmol) and 1-methyl-3-oxo-2-phenyl-5-(pyridin-4-yl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid (520 mg, 1.76 mmol) (1.679 g of a ˜30% by weight solution of acid in DMF) was dissolved in DCM (20 ml) and HATU (1.042 g, 2.740 mmol) was added. The reaction was stirred under nitrogen at room temperature overnight, and then filtered. The filtered solid was washed with dichloromethane, and the filtrate was concentrated and purified on silica gel (DCM→50:1→25:1→10:1 DCM/MeOH). The fractions with product were collected, concentrated, and purified on silica gel (30:1→20:1→10:1 DCM/MeOH). Fractions with product collected, concentrated, and purified again on silica gel (25:1→20:1 DCM/MeOH). Fractions with pure product collected and concentrated to give desired N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-methyl-3-oxo-2-phenyl-5-(pyridin-4-yl)-2,3-dihydro-1H-pyrazole-4-carboxamide (225.9 mg, 0.382 mmol, 22% yield). MS (ESI pos. ion) m/z: 592 (MH+). Calc'd exact mass for C33H26FN5O5: 591. 1H NMR (400 MHz, CDCl3): 10.96 (s, 1H), 8.88 (d, J=4.0 Hz, 2H), 8.48 (d, J=6.0 Hz, 1H), 7.83 (d, J=12 Hz, 1H), 7.65-7.47 (m, 8H), 7.41 (s, 1H), 7.30 (d, J=10.0 Hz, 1H), 7.16 (t, J=8.0 Hz, 1H), 6.40 (d, J=5.2 Hz, 1H), 4.05 (s, 6H), 3.20 (s, 3H).

reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine | 2.001 mmol, 628.9 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
reactant | 1-methyl-3-oxo-2-phenyl-5-(pyridin-4-yl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.76 mmol, 520 mg | CN1N(C(C(=C1C1=CC=NC=C1)C(=O)O)=O)C1=CC=CC=C1 | C16H13N3O3
reactant | HATU | 2.740 mmol, 1.042 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-methyl-3-oxo-2-phenyl-5-(pyridin-4-yl)-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.382 mmol, 225.9 mg, 22% yield | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C1=CC=NC=C1)C)C1=CC=CC=C1)=O)F | C33H26FN5O5
